US04156609
2-Chloro-4-(4-fluorosulfonylphenylazo)-6-nitrophenol
Solid 2-Chloro-4-(4-fluorosulfonylphenylazo)phenol (7.5 g. 23 mmol) was added rapidly to a vigorously stirred mixture of 15 ml concentrated nitric acid and 15 ml concentrated sulfuric acid, cooled to -30° C. After 13 minutes of stirring, the reaction mixture was poured into 400 ml ice water with vigorous stirring. The resulting precipitate was filtered off and washed with water. During drying on the funnel the solid softened and became tarry. When the tar was dissolved in acetic acid and then carefully and slowly diluted with water, a fine precipitate separated and was filtered off. This process was repeated with the filtrate until the resulting precipitate no longer separated as a solid. The collected solids were combined and air dried. Yield: 3.1 g, (37%) m.p. 129°-133° C.

reactant | 2-Chloro-4-(4-fluorosulfonylphenylazo)phenol | 23 mmol, 7.5 g | ClC1=C(C=CC(=C1)N=NC1=CC=C(C=C1)S(=O)(=O)F)O | C12H8ClFN2O3S
reactant | nitric acid | 15 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Chloro-4-(4-fluorosulfonylphenylazo)-6-nitrophenol | ClC1=C(C(=CC(=C1)N=NC1=CC=C(C=C1)S(=O)(=O)F)[N+](=O)[O-])O | C12H7ClFN3O5S
